### ISSUE TITLE
Interaction with `symm` attribute makes `apply?` nearly unusable

### ISSUE THREAD

**Issue by MichaelStollBayreuth** [leanprover/lean4#3922]
### Prerequisites

* [X] Put an X between the brackets on this line if you have done all of the following:
    * Check that your issue is not already [filed](https://github.com/leanprover/lean4/issues).
    * Reduce the issue to a minimal, self-contained, reproducible test case. Avoid dependencies to mathlib4 or std4.

### Description

If there are hypotheses in the context involving relations marked with the `symm` attribute, `apply?` does not work as expected, degrading its usefulness substantially:
* its suggestions contain expresions like `(?_ (id (r.symm h₁)))`, which produce an error when used to replace the call to `apply?`, so the resulting code has to be fixed manually;
* the list of resulting subgoals contains many spurious entries (usually of the type `h → g` when `g` is already present as a subgoal);
* a side effect of the latter is that it blows up the amount of text in the infoview with the result that VSCode reacts extremely slowly to keystrokes/mouse wheel when scrolling. **EDIT:** This seems to have been exacerbated by a different problem that was fixed in [vscode-lean#432](https://github.com/leanprover/vscode-lean4/pull/432).

### Context

Since equality is a `symm` relation, this issue occurs whenever one tries to use `apply?` when there are equality hypotheses around (which is very common).

See [this Zulip thread](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/apply.3F.20and.20the.20.22symm.22.20attribute/near/433120818) (in particular the poll there) and also [this one](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/apply.3F.20suggested.20something.20that.20led.20to.20an.20error/near/432933179).

### Steps to Reproduce

Here is an MWE showing the effect of marking a relation `symm` on `apply?`:
```lean
-- set up a binary relation
axiom r : Nat → Nat → Prop

-- that is symmetric
theorem r.symm {a b : Nat} : r a b → r b a := sorry

-- and has some other property
theorem r.trans {a b c : Nat} : r a b → r b c → r a c := sorry

-- now try `apply?`
example (a b c : Nat) (h₁ : r b a) (h₂ : r b c) : r c a := by
  apply?
/-
Try this: refine r.trans ?_ ?_
Remaining subgoals:
⊢ Nat
⊢ r c ?b
⊢ r ?b a

Try this: refine r.symm ?_
Remaining subgoals:
⊢ r a c

which looks fine.
-/

-- now attach the `symm` attribute to `r.symm`
attribute [symm] r.symm

-- and repeat
example (a b c : Nat) (h₁ : r b a) (h₂ : r b c) : r c a := by
  -- `exact?` → `exact?` could not close the goal.
  -- I think that attaching `symm` *should* enable `exact?` to come up with
  -- `exact r.trans h₂.symm h₁` or `exact (r.trans h₁.symm h₂).symm`
  apply?
/-
Try this: refine r.trans (?_ (id (r.symm h₁))) (?_ (id (r.symm h₁)))
Remaining subgoals:
⊢ r a b → Nat
⊢ r a b → r c (?m.239 ⋯)
⊢ r a b → r (?m.239 ⋯) a
⊢ r c b → Nat
⊢ Nat
⊢ r c b → r c (?m.239 ⋯)
⊢ r c (?m.239 ⋯)
⊢ r c b → r (?m.239 ⋯) a
⊢ r (?m.239 ⋯) a

Try this: refine r.symm (r.trans (?_ (id (r.symm h₁))) (?_ (id (r.symm h₁))))
Remaining subgoals:
⊢ r a b → Nat
⊢ r a b → r a (?m.331 ⋯)
⊢ r a b → r (?m.331 ⋯) c
⊢ r c b → Nat
⊢ Nat
⊢ r c b → r a (?m.331 ⋯)
⊢ r a (?m.331 ⋯)
⊢ r c b → r (?m.331 ⋯) c
⊢ r (?m.331 ⋯) c

Try this: refine r.symm (?_ (id (r.symm h₁)))
Remaining subgoals:
⊢ r a b → r a c
⊢ r c b → r a c
⊢ r a c

Try this: refine r.symm (r.symm (?_ (id (r.symm h₁))))
Remaining subgoals:
⊢ r a b → r c a
⊢ r c b → r c a

... and clicking on any of these results in an error of the kind
  function expected at
    ?m.5099
  term has type
    ?m.5098
-/
```

**Expected behavior:**
`apply?` should make suggestions (including applying symmetry lemmas) that work without manual editing when clicked on (in particular, without `?_` in function positions) and give the actual list of subgoals generated.

**Actual behavior:**
In the presence of `symm` relations in the context, `apply?` produces suggestions involving `?_` in function positions (hence leading to an error when transferred to the code) and bloats the list of remaining subgoals with redundant statements. See [here](https://leanprover.zulipchat.com/#narrow/stream/113489-new-members/topic/apply.3F.20suggested.20something.20that.20led.20to.20an.20error/near/433036405) for a particulary egregious example (this is just the first suggestion shown).

### Versions

4.7.0 / Linux (my laptop). 4.7.0 on https://live.lean-lang.org

### Impact

This bug makes `apply?` almost unusable in most real-life situations, which would otherwise be a very helpful tool.
See [this poll](https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/apply.3F.20and.20the.20.22symm.22.20attribute/near/433303853).

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
